US05424293
e) (5-(R)-(4-tert-Butoxycarbonylaminomethylphenyl)-2,4-dioxoimidazolidin-3-yl)acetic acid
A solution of 180 mg (0.6 mmol) of (5-(R)-(4-aminomethylphenyl)-2,4-dioxoimidazolidin-3-yl)acetic acid hydrochloride in a mixture of 2 ml of dioxane and 1 ml of water is adjusted to pH 8-9 at 0° C. using about 1 ml of 1N NaOH. 142 mg of di-tert-butyl dicarbonate are added to this mixture and it is stirred at room temperature for 3 hours. The mixture is then concentrated in a rotary evaporator and the residue is partitioned between ethyl acetate and water which has been acidified to pH 2 with KHSO4. The ethyl acetate phase is then extracted twice by shaking with saturated NaHCO3 solution. The combined NaHCO3 solutions are acidified to pH 2 using KHSO4 and extracted three times with ethyl acetate. The combined ethyl acetate phases are washed with water, dried over Na2SO4 and concentrated.

reactant | (5-(R)-(4-aminomethylphenyl)-2,4-dioxoimidazolidin-3-yl)acetic acid hydrochloride | 0.6 mmol, 180 mg | Cl.NCC1=CC=C(C=C1)[C@@H]1C(N(C(N1)=O)CC(=O)O)=O
reactant | NaOH | 1N, about 1 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 142 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | (5-(R)-(4-tert-Butoxycarbonylaminomethylphenyl)-2,4-dioxoimidazolidin-3-yl)acetic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)[C@@H]1C(N(C(N1)=O)CC(=O)O)=O | C17H21N3O6
